US08383636B2
A solution of tert-butyl 2,2-dimethyl-5-(methylthiomethyl)-1,3-dioxan-5-ylcarbamate (2.64 g, 9.06 mmol) in methanol (10 mL) was added to a solution of concentrated hydrochloric acid (8 mL) in methanol (100 mL) and evaporated to give a yellow oil, which was purified by flash column chromatography (CH2Cl2:methanol:7 M methanolic ammonia, 5:2:1). The residue was reconverted to the hydrochloride salt by treatment with a solution of concentrated hydrochloric acid (1 mL) in methanol (5 mL) to give the 2-amino-2-(methylthiomethyl)propane-1,3-diol, hydrochloride salt (1.37 g, 100%). 1H NMR (D2O) δ 3.74 (s, 4H), 2.88 (s, 2H), 2.19 (s, 3H). 13C NMR (DMSO) δ 64.4 (2C), 57.9, 48.9, 17.5. +ESMS Found 152.0744 (M−Cl−) C5H14NO2S requires 152.0745.

reactant | tert-butyl 2,2-dimethyl-5-(methylthiomethyl)-1,3-dioxan-5-ylcarbamate | 9.06 mmol, 2.64 g | CC1(OCC(CO1)(CSC)NC(OC(C)(C)C)=O)C | C13H25NO4S
reactant | hydrochloric acid | 8 mL | Cl | ClH
solvent | methanol | 10 mL | CO | CH4O
solvent | methanol | 100 mL | CO | CH4O
product | 2-amino-2-(methylthiomethyl)propane-1,3-diol, hydrochloride salt | 1.37 g, 100% | Cl.NC(CO)(CO)CSC | InChI=1S/C5H13NO2S.ClH/c1-9-4-5(6,2-7)3-8;/h7-8H,2-4,6H2,1H3;1H
